US07566735B2
N-[1-(4-bromophenyl)ethyl]-N-methylacetamide
The title compound was prepared from N-[1-(4-bromophenyl)ethyl]acetamide and iodomethane in a manner similar to that described for description 24.

reactant | N-[1-(4-bromophenyl)ethyl]acetamide | BrC1=CC=C(C=C1)C(C)NC(C)=O | C10H12BrNO
reactant | iodomethane | IC | CH3I
product | N-[1-(4-bromophenyl)ethyl]-N-methylacetamide | BrC1=CC=C(C=C1)C(C)N(C(C)=O)C | C11H14BrNO
